US09302991B2
<Step-4>: 2-(hydroxymethyl)-N-(1-(5-methyl-6-(2,2,2-trifluoroethoxy)pyridin-3-yl)ethyl)-6-propionamidoisonicotinamide (Example-445, single enantiomer)
A mixture of 2-chloro-6-(hydroxymethyl)-N-(1-(5-methyl-6-(2,2,2-trifluoroethoxy)pyridin-3-yl)ethyl)isonicotinamide (17 mg, 0.04 mmol, Step-3, single enantiomer), propionamide (6 mg, 0.08 mmol), tris(dibenzylideneacetone)dipalladium(0) (1 mg, 0.8 microM), 4,5-bis(diphenylphosphino)-9,9-dimethylxanthene (1.5 mg, 2.5 microM), tripotassium phosphate (11 mg, 0.05 mmol) and 1,4-dioxane (1 mL) is heated by microwave irradiation at 150° C. for 1 hour. After cooling to room temperature, the mixture is filtered through a pad of celite. The filtrate is concentrated under reduced pressure and the residue is diluted with methanol (4 mL) and applied onto a strong cation exchange cartridge (BondElute(registered trademark) SCX, 1 g/6 mL, Varian Inc.), and the solid phase matrix is rinsed with methanol (5 mL). The crude mixture is eluted with 1M ammonia in methanol (5 mL) and concentrated under reduced pressure and then by preparative LC-MS to give 4.4 mg (24% yield) of the title compound.

reactant | 2-chloro-6-(hydroxymethyl)-N-(1-(5-methyl-6-(2,2,2-trifluoroethoxy)pyridin-3-yl)ethyl)isonicotinamide | 0.04 mmol, 17 mg | ClC=1C=C(C(=O)NC(C)C=2C=NC(=C(C2)C)OCC(F)(F)F)C=C(N1)CO | C17H17ClF3N3O3
reactant | propionamide | 0.08 mmol, 6 mg | C(CC)(=O)N | C3H7NO
reactant | 4,5-bis(diphenylphosphino)-9,9-dimethylxanthene | 1.5 mg | C1(=CC=CC=C1)P(C1=CC=CC=2C(C3=CC=CC(=C3OC12)P(C1=CC=CC=C1)C1=CC=CC=C1)(C)C)C1=CC=CC=C1 | C39H32OP2
reactant | tripotassium phosphate | 0.05 mmol, 11 mg | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 1 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | 1,4-dioxane | 1 mL | O1CCOCC1 | C4H8O2
product | 2-(hydroxymethyl)-N-(1-(5-methyl-6-(2,2,2-trifluoroethoxy)pyridin-3-yl)ethyl)-6-propionamidoisonicotinamide | 4.4 mg, 24% yield | OCC=1C=C(C(=O)NC(C)C=2C=NC(=C(C2)C)OCC(F)(F)F)C=C(N1)NC(CC)=O | C20H23F3N4O4
